US06251926B1
Sodium hydride (60% in oil, 225 mg) was added under a nitrogen atmosphere to a solution of ethyl E-2-(4-bromophenyl)-2-hydroxyiminoacetate (1.73 g) and 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (2.00 g) in N,N-dimethylformamide (20 ml) at room temperature and the mixture was stirred for 1 hour. After adding 1N HCl (10 ml), aqueous sodium bicarbonate was added, and then the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residue was subjected to column chromatography on silica gel to obtain ethyl E-2-(4-bromophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate (2.54 g, yield 73%) as crystals from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization was performed from ethyl acetate-hexane. m.p. 105-106° C.

reactant | Sodium hydride | 225 mg | [H-].[Na+]
reactant | ethyl E-2-(4-bromophenyl)-2-hydroxyiminoacetate | 1.73 g | BrC1=CC=C(C=C1)\C(\C(=O)OCC)=N/O | C10H10BrNO3
reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 2.00 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | HCl | 1N, 10 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl E-2-(4-bromophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate | 2.54 g, yield 73% | BrC1=CC=C(C=C1)\C(\C(=O)OCC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H25BrN2O5
